US05571775
53. Preparation of t-Butyl N-(2-Ethoxy-3-pyridinyl)carbamate
To a solution of 38.1 g (0.28 mol) of 3-amino-2-ethoxypyridine in 400 mL of dry dioxane was added with stirring 60 g (0.28 mol) of di-t-butyl dicarbonate and the solution was slowly heated to reflux over a 4 hr period. The resulting solution was cooled below reflux and another 5.0 g (23 mmol) of di-t-butyl dicarbonate was added with stirring the the mixture was reheat at reflux for 1 hr. The volatiles were removed by evaporation under reduced pressure and the residue obtained was purified by column chromatography to obtain 58.3 g (89 percent of theory) of the title compound as a colorless oil.

reactant | 3-amino-2-ethoxypyridine | 0.28 mol, 38.1 g | NC=1C(=NC=CC1)OCC | C7H10N2O
reactant | di-t-butyl dicarbonate | 0.28 mol, 60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 23 mmol, 5.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | t-Butyl N-(2-Ethoxy-3-pyridinyl)carbamate | C(C)OC1=NC=CC=C1NC(OC(C)(C)C)=O | C12H18N2O3
